US05905084
5-trifluoromethanesulfonyloxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A solution of 0.90 gm (3.89 mMol) 5-hydroxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine in 80 mL pyridine was cooled to 0° C. To this solution were then added 1.71 mL (10.13 mMol) trifluoromethanesulfonic anhydride and the reaction mixture was allowed to warm gradually to room temperature. After four hours the reaction mixture was quenched by the addition of saturated aqueous sodium bicarbonate and was then concentrated under reduced pressure. The residue was dissolved in 3:1 chloroform:isopropanol and this solution was washed with saturated aqueous sodium chloride. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with dichloromethane containing from 0-20% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 1.12 gm (79%) of the title compound.

reactant | 5-hydroxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 3.89 mMol, 0.90 gm | OC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H17N3O
reactant | trifluoromethanesulfonic anhydride | 10.13 mMol, 1.71 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 5-trifluoromethanesulfonyloxy-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.12 gm, 79% | FC(S(=O)(=O)OC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C)(F)F | C14H16F3N3O3S
